### PR TITLE
lemmas about bigsetU

### PR DESCRIPTION
**Pull request by affeldt-aist**
- also notation about disjointness

I have been using these lemmas temporarily in integral_sketch and also have a use for one of them elsewhere,
that's why I submit them to your scrutiny.

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -710,6 +716,37 @@ Proof. by rewrite eqEsubset; split => a // []. Qed.
 Lemma bigcup_set1 F i : \bigcup_(j in [set i]) F j = F i.
 Proof. by rewrite eqEsubset; split => ? => [[] ? -> //|]; exists i. Qed.
 
+Lemma bigcup_nonempty P F :
+  (\bigcup_(i in P) F i !=set0) <-> (exists i, P i /\ F i !=set0).
+Proof.
+split=> [[t [i Pi Fit]]|[j [Dj [t Fjt]]]]; last by exists t, j.
+by exists i; split => //; exists t.
+Qed.
```
Comment (CohenCyril) [inline theories/classical_sets.v:724]:
```suggestion
Lemma bigcup_nonempty P F :
  (\bigcup_(i in P) F i !=set0) <-> exists2 i, P i & F i !=set0.
Proof.
split=> [[t [i Pi Fit]]|[j Dj [t Fjt]]]; last by exists t, j.
by exists i => //; exists t.
Qed.
```
(preuve patchée au pifomètre)

File: theories/classical_sets.v [hunk 2]
```diff
@@ -710,6 +716,37 @@ Proof. by rewrite eqEsubset; split => a // []. Qed.
...
+
+Lemma bigcup1 P F :
```
Comment (CohenCyril) [inline theories/classical_sets.v:726]:
```suggestion
Lemma bigcup0 P F :
```
(in `big1` the convention is multiplicative so the neutral is `1`, for `cup` the neutral is `set0` so `0` makes more sense)

File: theories/classical_sets.v [hunk 3]
```diff
@@ -710,6 +716,37 @@ Proof. by rewrite eqEsubset; split => a // []. Qed.
...
+  (forall i, P i -> F i = set0) -> \bigcup_(i in P) F i = set0.
+Proof. by move=> PF; rewrite predeqE => t; split => // -[i /PF ->]. Qed.
+
+Lemma bigcup_empty P F :
```
Comment (CohenCyril) [inline theories/classical_sets.v:730]:
```suggestion
Lemma bigcup0P P F :
```

File: theories/classical_sets.v [hunk 4]
```diff
@@ -710,6 +716,37 @@ Proof. by rewrite eqEsubset; split => a // []. Qed.
...
+Qed.
+
+Lemma subset_bigcup_r P : {homo (fun x : I -> set T => \bigcup_(i in P) x i)
+  : F G / [set F i | i in P] `<=` [set G i | i in P] >-> F `<=` G}.
+Proof.
+move=> F G FG t [i Pi Fit]; have := FG (F i).
+by move=> /(_ (ex_intro2 _ _ _ Pi erefl))[j Pj ji]; exists j => //; rewrite ji.
+Qed.
+
+Lemma eqbigcup_r P F G : [set F i | i in P] = [set G i | i in P] ->
```
Comment (CohenCyril) [inline theories/classical_sets.v:746]:
```suggestion
Lemma eqbigcup_r P F G : forall i, P i -> F i = G i ->
```
non ?

**Review by CohenCyril — CHANGES_REQUESTED** [review]
These lemmas look useful. Merge up to renaming and small rephrasings

**Review by CohenCyril — APPROVED** [review]
